US06211242B1
A solution of 3-methoxy-4-(4′-nitrobiphenyl-2-carboxamido)-N-[4-methyl-2-[5-(4-methylpiperazin-1-ylcarbonyl)pent-1-yloxy]phenyl]-N-methylbenzamide (910 mg), 20% palladium hydroxide (200 mg) in methanol (30 ml) was stirred under atmospheric pressure of hydrogen at ambient temperature. After 5 hours, the reaction mixture was filtered through a bed of Celite, and the solvent was removed by evaporation and the crude product was purified by silica gel column chromatography (SiO2; 30 g, 5% methanol in chloroform) to give free product. To a solution of this product (810 mg) in ethanol (20 ml) was added 1N hydrochloric acid (2.39 ml) and stirred at ambient temperature for 10 minutes. The solvent was removed to give 4-(4′-aminobiphenyl-2-carboxamido)-3-methoxy-N-[4-methyl-2-[5-(4-methylpiperazin-1-ylcarbonyl)pent-1-yloxy]phenyl]-N-methylbenzamide dihydrochloride as amorphous.

reactant | 3-methoxy-4-(4′-nitrobiphenyl-2-carboxamido)-N-[4-methyl-2-[5-(4-methylpiperazin-1-ylcarbonyl)pent-1-yloxy]phenyl]-N-methylbenzamide | 910 mg | COC=1C=C(C(=O)N(C)C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C=CC1NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C40H45N5O7
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 1N, 2.39 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 200 mg | [OH-].[Pd+2].[OH-]
product | 4-(4′-aminobiphenyl-2-carboxamido)-3-methoxy-N-[4-methyl-2-[5-(4-methylpiperazin-1-ylcarbonyl)pent-1-yloxy]phenyl]-N-methylbenzamide dihydrochloride | Cl.Cl.NC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=C(C=C(C(=O)N(C)C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C=C1)OC | InChI=1S/C40H47N5O5.2ClH/c1-28-13-20-35(37(26-28)50-25-9-5-6-12-38(46)45-23-21-43(2)22-24-45)44(3)40(48)30-16-19-34(36(27-30)49-4)42-39(47)33-11-8-7-10-32(33)29-14-17-31(41)18-15-29;;/h7-8,10-11,13-20,26-27H,5-6,9,12,21-25,41H2,1-4H3,(H,42,47);2*1H
